US04304770
To 7-aminocephalosporanic acid (150.0 g.) was added 0.2 M phosphate buffer solution (3 l.), which was prepared by dissolving sodium biphosphate dihydrate (62.1 g.) and disodium hydrogen phosphate (25.5 g.) in water (3 l.), and the resulting mixture was adjusted to pH 6.5 with 2 N aqueous solution of sodium carbonate. To the mixture was added 1-hexyl-1H-tetrazole-5-thiol (154.6 g.) and the resulting mixture was stirred for 2 hours at 60° to 65° C. and at pH 6.0 to 6.5 with bubbling of nitrogen gas. The reaction mixture was adjusted to pH 3.5 with conc. hydrochloric acid under ice-cooling. Precipitates were collected by filtration and washed with water, and methanol (4 l.) and conc. hydrochloric acid (400 ml.) were added thereto. The mixture was stirred for 2 hours and an insoluble material was filtered off. The filtrate was treated with an activated charcoal and adjusted to pH 3.5 with 28% aqueous solution of ammonia. Precipitates were collected by filtration, in turn washed with water, acetone and diethyl ether and dried to give powder of 7-amino-3-(1-hexyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (116.38 g.).

reactant | 7-aminocephalosporanic acid | 150.0 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | phosphate | 0.2 M, 3 l | P(=O)([O-])([O-])[O-]
reactant | disodium hydrogen phosphate | 25.5 g | P(=O)(O)([O-])[O-].[Na+].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-hexyl-1H-tetrazole-5-thiol | 154.6 g | C(CCCCC)N1N=NN=C1S | C7H14N4S
solvent | water | 3 l | O | H2O
product | 7-amino-3-(1-hexyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 116.38 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCCCCC)C(=O)O)C1=O | C15H22N6O3S2
